US03931407
4,5-Dihydro-3-(4-hydroxy-3-methoxycarbonylphenyl)-2-phenylbenz[e]indole ##SPC52##
Hydrogen chloride gas was bubbled through a stirred, boiling mixture of 30.0 g. (0.08 mole) of 3-(3-carboxy-4-hydroxyphenyl)-4,5-dihydro-2-phenylbenz[e]indole and 790 ml. of methanol for 1 hour. The mixture was stirred under reflux for 6 hours, cooled and filtered to provide 28.4 g. (91%) of solid. Recrystallization from acetonitrile gave colorless crystals, m.p. 164.5°-165.5°.

reactant | 3-(3-carboxy-4-hydroxyphenyl)-4,5-dihydro-2-phenylbenz[e]indole | 0.08 mole | C(=O)(O)C=1C=C(C=CC1O)N1C(=CC=2C3=C(CCC12)C=CC=C3)C3=CC=CC=C3 | C25H19NO3
reactant | methanol | CO | CH4O
product | 4,5-Dihydro-3-(4-hydroxy-3-methoxycarbonylphenyl)-2-phenylbenz[e]indole | OC1=C(C=C(C=C1)N1C(=CC=2C3=C(CCC12)C=CC=C3)C3=CC=CC=C3)C(=O)OC | C26H21NO3
